### PR TITLE
[Merged by Bors] - feat: define exponential of nilpotent elements of a `ℚ`-algebra

### PR DESCRIPTION
**Pull request by jano-wol**
Define exponential map for algebras
---
This PR defines the exponential map for algebras. The given definition is in analogy with the usual exponential series and provides meaningful values for nilpotent elements of algebras.

This work is part of the framework:
https://github.com/orgs/leanprover-community/projects/17

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ocfnash** [comment]
Thanks very much for this; I probably won't have time to review till the weekend but it's looking great!

File: Mathlib/Algebra/Algebra/Exp.lean [hunk 1]
```diff
@@ -0,0 +1,194 @@
...
+namespace Algebra
+
+variable (R : Type u) [Field R]
+variable (A : Type v)
+
+open Finset
+
+section SemiringAlgebras
+
+variable [Semiring A] [Algebra R A]
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Exp.lean:45]: I think we should drop `R` and instead just assume we have `ℚ` coefficients. To be precise I propose:
```lean
variable {A : Type*} [Ring A] [Algebra ℚ A]
```
Note that this painlessly covers the case of a field of characteristic zero since:
```lean
example (A : Type*) [DivisionRing A] [CharZero A] : Algebra ℚ A := inferInstance
```
(to test this you need `import Mathlib.Algebra.Algebra.Rat`).

In fact this gives an example of why I think having `R` will be awkward. If `K` is a field of characteristic zero then with the current definition we have two names for the same map: `exp K K` and `exp ℚ K`.

I also note that you have gone to some trouble to support the case where `A` might not have subtraction but I propose we leave this out unless you have an application in mind. If we did want to support it, we could do:
```lean
variable (A : Type*) [Semiring A] [Algebra ℚ≥0 A]
```
but I think we'll probably run into issues since the library is bound to have some gaps associated with passing between `ℚ≥0` and `ℚ`.

**Review by ocfnash — COMMENTED** [review]
Thanks for this. I have one remark about the generality so I'll do a detailed review after you've had a chance to reply but overall this looks excellent.

File: Mathlib/Algebra/Algebra/Exp.lean (hunk 1 above)
Comment (jano-wol) [reply Mathlib/Algebra/Algebra/Exp.lean]: Thanks for the feedback, I applied the suggested change to
variable {A : Type*} [Ring A] [Algebra ℚ A].

This made the notation somewhat simpler throughout the file — thanks for that!
I also dropped the semiring generality, since I didn’t have any particular use case for it.

File: Mathlib/Algebra/Algebra/Exp.lean [hunk 2]
```diff
@@ -0,0 +1,178 @@
...
+    _ = ∑ ij ∈ (range (N + 1)).product (range (N + 1)), ((ij.1.factorial : ℚ)⁻¹ *
+          (ij.2.factorial : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2) := by
+      rw [sum_sigma']
+      apply sum_bijective (fun ⟨i, j⟩ => (i, j))
+      exact ⟨fun ⟨i, j⟩ ⟨i', j'⟩ h => by cases h; rfl, fun ⟨i, j⟩ => ⟨⟨i, j⟩, rfl⟩⟩
+      · simp only [mem_sigma, product_eq_sprod, mem_product, implies_true]
+      simp only [implies_true]
+  simp only [product_eq_sprod] at s₂
+  rw [s₂.symm] at s₁
+  exact s₁
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Exp.lean:167]: Here are a bunch of style suggestions (no change mathematically):
```suggestion
  obtain ⟨n₁, hn₁⟩ := h₂
  obtain ⟨n₂, hn₂⟩ := h₃
  let N := n₁ ⊔ n₂
  have h₄ : a ^ (N + 1) = 0 := pow_eq_zero_of_le (by omega) hn₁
  have h₅ : b ^ (N + 1) = 0 := pow_eq_zero_of_le (by omega) hn₂
  rw [← exp_eq_truncated (k := 2 * N + 1)
    (Commute.add_pow_eq_zero_of_add_le_succ_of_pow_eq_zero h₁ h₄ h₅ (by omega)),
    ← exp_eq_truncated h₄, ← exp_eq_truncated h₅]
  set R2N := range (2 * N + 1) with hR2N
  set RN := range (N + 1) with hRN
  have s₁ := by
    calc ∑ i ∈ R2N, (i ! : ℚ)⁻¹ • (a + b) ^ i
        = ∑ i ∈ R2N, (i ! : ℚ)⁻¹ • ∑ j ∈ range (i + 1), a ^ j * b ^ (i - j) * i.choose j := ?_
      _ = ∑ i ∈ R2N, (∑ j ∈ range (i + 1),
            ((j ! : ℚ)⁻¹ * ((i - j) ! : ℚ)⁻¹) • (a ^ j * b ^ (i - j))) := ?_
      _ = ∑ ij ∈ R2N ×ˢ R2N with ij.1 + ij.2 ≤ 2 * N,
            ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2) := ?_
    · refine sum_congr rfl fun i _ ↦ ?_
      rw [Commute.add_pow h₁ i]
    · simp_rw [smul_sum]
      refine sum_congr rfl fun i hi ↦ sum_congr rfl fun j hj ↦ ?_
      simp only [mem_range] at hi hj
      replace hj := Nat.le_of_lt_succ hj
      suffices (i ! : ℚ)⁻¹ * (i.choose j) = ((j ! : ℚ)⁻¹ * ((i - j)! : ℚ)⁻¹) by
        rw [← Nat.cast_commute (i.choose j), ← this, ← Algebra.mul_smul_comm, ← nsmul_eq_mul,
          mul_smul, ← smul_assoc, smul_comm, smul_assoc]
        norm_cast
      rw [Nat.choose_eq_factorial_div_factorial hj,
        Nat.cast_div (Nat.factorial_mul_factorial_dvd_factorial hj) (by field_simp)]
      field_simp
    · rw [hR2N, sum_sigma']
      apply sum_bij (fun ⟨i, j⟩ _ ↦ (j, i - j))
      · simp only [mem_sigma, mem_range, mem_filter, mem_product, and_imp]
        omega
      · simp only [mem_sigma, mem_range, Prod.mk.injEq, and_imp]
        rintro ⟨x₁, y₁⟩ - h₁ ⟨x₂, y₂⟩ - h₂ h₃ h₄
        simp_all
        omega
      · simp only [mem_filter, mem_product, mem_range, mem_sigma, exists_prop, Sigma.exists,
          and_imp, Prod.forall, Prod.mk.injEq]
        exact fun x y _ _ _ ↦ ⟨x + y, x, by omega⟩
      · simp only [mem_sigma, mem_range, implies_true]
  have z₁ : ∑ ij ∈ R2N ×ˢ R2N with ¬ ij.1 + ij.2 ≤ 2 * N,
      ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2) = 0 :=
    sum_eq_zero fun i hi ↦ by
      rw [mem_filter] at hi
      cases le_or_lt (N + 1) i.1 with
        | inl h => rw [pow_eq_zero_of_le h h₄, zero_mul, smul_zero]
        | inr _ => rw [pow_eq_zero_of_le (by linarith) h₅, mul_zero, smul_zero]
  have split₁ := sum_filter_add_sum_filter_not (R2N ×ˢ R2N)
    (fun ij ↦ ij.1 + ij.2 ≤ 2 * N)
    (fun ij ↦ ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2))
  rw [z₁, add_zero] at split₁
  rw [split₁] at s₁
  have z₂ : ∑ ij ∈ R2N ×ˢ R2N with ¬ (ij.1 ≤ N ∧ ij.2 ≤ N),
      ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2) = 0 :=
    sum_eq_zero fun i hi ↦ by
    simp only [not_and, not_le, mem_filter] at hi
    cases le_or_lt (N + 1) i.1 with
      | inl h => rw [pow_eq_zero_of_le h h₄, zero_mul, smul_zero]
      | inr h => rw [pow_eq_zero_of_le (hi.2 (Nat.le_of_lt_succ h)) h₅, mul_zero, smul_zero]
  have split₂ := sum_filter_add_sum_filter_not (R2N ×ˢ R2N)
    (fun ij ↦ ij.1 ≤ N ∧ ij.2 ≤ N)
    (fun ij ↦ ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2))
  rw [z₂, add_zero] at split₂
  rw [← split₂] at s₁
  have restrict: ∑ ij ∈ R2N ×ˢ R2N with ij.1 ≤ N ∧ ij.2 ≤ N,
      ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2) =
        ∑ ij ∈ RN ×ˢ RN, ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2) := by
    apply sum_congr
    · ext x
      simp only [mem_filter, mem_product, mem_range, hR2N, hRN]
      omega
    · tauto
  rw [restrict] at s₁
  have s₂ := by
    calc (∑ i ∈ RN, (i ! : ℚ)⁻¹ • a ^ i) * ∑ i ∈ RN, (i ! : ℚ)⁻¹ • b ^ i
        = ∑ i ∈ RN, ∑ j ∈ RN, ((i ! : ℚ)⁻¹ * (j ! : ℚ)⁻¹) • (a ^ i * b ^ j) := ?_
      _ = ∑ ij ∈ RN ×ˢ RN, ((ij.1 ! : ℚ)⁻¹ * (ij.2 ! : ℚ)⁻¹) • (a ^ ij.1 * b ^ ij.2) := ?_
    · rw [sum_mul_sum]
      refine sum_congr rfl fun _ _ ↦ sum_congr rfl fun _ _ ↦ ?_
      rw [smul_mul_assoc, Algebra.mul_smul_comm, smul_smul]
    · rw [sum_sigma']
      apply sum_bijective (fun ⟨i, j⟩ ↦ (i, j))
      · exact ⟨fun ⟨i, j⟩ ⟨i', j'⟩ h ↦ by cases h; rfl, fun ⟨i, j⟩ ↦ ⟨⟨i, j⟩, rfl⟩⟩
      · simp only [mem_sigma, mem_product, implies_true]
      · simp only [implies_true]
  rwa [s₂.symm] at s₁
```
Some remarks as follows:

- You'll need to add `open scoped Nat` above (to get access to the notation `n !` for `n.factorial`)
- You'll need to add `import Mathlib.Tactic.FieldSimp` to get access to the `field_simp` tactic
- I think this proof would be somewhat easier if you used the "antidiagonal trick". The point is that it avoids having to interact with the badly-behaved natural number subtraction. To see a simple example, compare the statements of [Commute.add_pow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Choose/Sum.html#Commute.add_pow) and [Commute.add_pow'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Choose/Sum.html#Commute.add_pow')
- One of the bigger style changes I made above is to defer the proof for the `calc` blocks by writing `:= ?_`. I claim this is preferable style when the proof of a step in the `calc` is long

**Review by ocfnash — APPROVED** [review]
Thanks, this is very nice work.

1. Please apply the style suggestions I have provided for `exp_add_of_commute`.
2. Please move this file to be `RingTheory/Nilpotent/Exp.lean` instead of `Algebra/Algebra/Exp.lean`.
3. Please place these results in the `IsNilpotent` namespace rather than the `Algebra` namespace.
4. [optional] If you wish you can also rewrite the proof sufficiently to use the antidiagonal approach.

bors d+
